US08859777B2
To a solution of N-(4-bromophenyl)acrylamide (340 mg, 1.50 mmol) in methanol (10 mL) was added 4-(3-benzyloxyphenyl)-4-fluoropiperidine hydrochloride (321 mg, 1.00 mmol) followed by sodium bicarbonate (840 mg, 10.0 mmol) and the resulting suspension stirred at room temperature for 52 hours. After this time the reaction was filtered and the filtrate concentrated under reduced pressure. The residue was treated with ethyl acetate (10 mL) and the resulting suspension re-filtered and concentrated under reduced pressure. The resulting solid was treated with 10% hydrogen chloride in methanol (10 mL) and the solution re-concentrated. Subsequent trituration with ethyl acetate (10 mL) afforded 3-[4-(3-benzyloxyphenyl)-4-fluoropiperidin-1-yl]-N-(4-bromophenyl)propionamide hydrochloride in 64% yield as a light yellow solid.

reactant | N-(4-bromophenyl)acrylamide | 1.50 mmol, 340 mg | BrC1=CC=C(C=C1)NC(C=C)=O | C9H8BrNO
reactant | 4-(3-benzyloxyphenyl)-4-fluoropiperidine hydrochloride | 1.00 mmol, 321 mg | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCNCC1)F
reactant | sodium bicarbonate | 10.0 mmol, 840 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 3-[4-(3-benzyloxyphenyl)-4-fluoropiperidin-1-yl]-N-(4-bromophenyl)propionamide hydrochloride | 64% yield | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCN(CC1)CCC(=O)NC1=CC=C(C=C1)Br)F | InChI=1S/C27H28BrFN2O2.ClH/c28-23-9-11-24(12-10-23)30-26(32)13-16-31-17-14-27(29,15-18-31)22-7-4-8-25(19-22)33-20-21-5-2-1-3-6-21;/h1-12,19H,13-18,20H2,(H,30,32);1H
